US04873236
11-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one
Prepared analogously to Example 2 from 11-(chlorocarbony)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one and 2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethanamine in a yield of 52% of theory. Colourless crystals, m.p. 146°-147.5° C. (acetonitrile).

reactant | 11-(chlorocarbony)-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | ClC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[2-[(diethylamino)methyl]-piperidin-1-yl]ethanamine | C(C)N(CC)CC1N(CCCC1)CCN | C12H27N3
solvent | acetonitrile | C(C)#N | C2H3N
product | 11-[[[2-[2-[(Diethylamino)methyl]-piperidin-1-yl]ethyl]amino]carbonyl]-6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | yield of 52% | C(C)N(CC)CC1N(CCCC1)CCNC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C25H34N6O2
